US07700637B2
A solution of the title D compound, 2-[(4-benzyloxy-benzenesulfonyl)-(t-butoxycarbonyl)-amino]-4-chloro-benzoic acid methyl ester (2.45 g, 4.61 mmol) in 30 mL of EtOAc containing 1.2 g of 10% palladium on carbon is shaken under 50 psi of hydrogen at RT overnight. The mixture is then filtered and concentrated to give 2-[(4-hydroxybenzene-sulfonyl)-(t-butoxycarbonyl)amino]4-chloro-benzoic acid methyl ester as a white foam.

reactant | 2-[(4-benzyloxy-benzenesulfonyl)-(t-butoxycarbonyl)-amino]-4-chloro-benzoic acid methyl ester | 4.61 mmol, 2.45 g | COC(C1=C(C=C(C=C1)Cl)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C26H26ClNO7S
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 30 mL, 1.2 g | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 2-[(4-hydroxybenzene-sulfonyl)-(t-butoxycarbonyl)amino]4-chloro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)Cl)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)O)=O | C19H20ClNO7S
